US05348964
3-(1-Piperidyl)propyl isopentyl sulfoxide
Heat 3-chloropropyl isopentyl sulfoxide (400 mg, 2.03 mmol) and piperidine (1.0 g, 12 mmol) at 125° C. for 45 minutes. Cool to room temperature, treat with 5N sodium hydroxide, extract with ethyl acetate (3×25 mL), and dry (MgSO4). Concentrate in vacuo to yield 240 mg yellow oil. Purify by silica gel chromatography (50% ethyl acetate/methanol) to yield 180 mg of the title compound as a clear oil.

reactant | 3-chloropropyl isopentyl sulfoxide | 2.03 mmol, 400 mg | C(CC(C)C)S(=O)CCCCl | C8H17ClOS
reactant | piperidine | 12 mmol, 1.0 g | N1CCCCC1 | C5H11N
reactant | sodium hydroxide | 5N | [OH-].[Na+]
product | 3-(1-Piperidyl)propyl isopentyl sulfoxide | 240 mg | C(CC(C)C)S(=O)CCCN1CCCCC1 | C13H27NOS
